US03946019
A 0.57M solution of diazomethane in diethyl ether (108 cc.) is added to a suspension of 7-carboxymethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline (15 g.) in dimethylformamide (150 cc.) cooled to 0° C. The mixture is kept at between 0° and 5° C. for 3 hours and is then allowed to return to a temperature of about 20° C. Water (450 cc.) is then added, the mixture is cooled in an ice-water bath and the yellow crystals thus obtained are filtered off. After drying, the crude methyl ester (14.17 g.) is obtained. After recrystallisation from ethyl acetate (280 cc.), the 7-methoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline obtained melts at 148 ° C. with decomposition.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 7-carboxymethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 15 g | C(=O)(O)CON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C16H11N3O3
reactant | Water | 450 cc | O | H2O
solvent | diethyl ether | 108 cc | C(C)OCC | C4H10O
solvent | dimethylformamide | 150 cc | CN(C=O)C | C3H7NO
product | 7-methoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline | COC(=O)CON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C17H13N3O3
